US05374615
2-Chloro-N,N-diethylacetamide
To a solution of chloroacetic acid (10 g, 0.11 mol) in methylene chloride (530 ml) at 0° C. was added diethylamine HCl (15.3 g, 0.14 mol), 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (26.4 g, 0.14 mol) and 4-methyl morpholine (29 ml, 0.27 mol). After the reaction stirred 1 hour at 0° C., the reaction was stirred at room temperature for 4 hours. The reaction mixture was then washed with water, 1N hydrochloric acid (until the aqueous phase was colorless) and saturated sodium chloride, dried over anhydrous magnesium sulfate, filtered and concentrated to give the title A compound as a yellow oil (9.3 g).

reactant | chloroacetic acid | 0.11 mol, 10 g | ClCC(=O)O | C2H3ClO2
reactant | diethylamine HCl | 0.14 mol, 15.3 g | Cl.C(C)NCC
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 0.14 mol, 26.4 g | Cl.CN(CCCN=C=NCC)C
reactant | 4-methyl morpholine | 0.27 mol, 29 ml | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | 530 ml | C(Cl)Cl | CH2Cl2
product | 2-Chloro-N,N-diethylacetamide | 9.3 g | ClCC(=O)N(CC)CC | C6H12ClNO
